US08084614B2
To 4-chloro-2-fluoro-N-methyl-5-nitro-N-o-tolyl-benzamide (6.6 g, 20.3 mmol) was stirred vigorously in a mixture of water (30 mL) and THF (30 mL) containing Na2S2O4 (17.6 g, 101.2 mmol) for 12 hrs. The organic layer was then separated and the water layer was further extracted with ethyl acetate. The combined organic solutions were washed with brine and dried over MgSO4. Concentration yielded 5-amino-4-chloro-2-fluoro-N-methyl-N-o-tolyl-benzamide as a crude solid which was washed with ether to give a light yellow product (3.3 g). MS: 292.9 (M+H)+: tR=1.90 min (method 1)

reactant | 4-chloro-2-fluoro-N-methyl-5-nitro-N-o-tolyl-benzamide | 20.3 mmol, 6.6 g | ClC1=CC(=C(C(=O)N(C2=C(C=CC=C2)C)C)C=C1[N+](=O)[O-])F | C15H12ClFN2O3
reactant | Na2S2O4 | 101.2 mmol, 17.6 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
solvent | water | 30 mL | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 5-amino-4-chloro-2-fluoro-N-methyl-N-o-tolyl-benzamide | NC=1C(=CC(=C(C(=O)N(C2=C(C=CC=C2)C)C)C1)F)Cl | C15H14ClFN2O
